US05021426
To a solution of 0.6 g (3.2 mmole) of 4-amino-5-chloro-2-methoxybenzoic acid in 15 ml of methylene chloride cooled to -15° C. was added 0.347 g (3.7 mmol) of ethyl chloroformate. The solution was stirred for 30 minutes and 1.0 g (3.2 mmole) of 1-methyl-4-(3-aminomethyl-5H-dibenzo[a,d]cycloheptene-5-ylidene)piperidine in 10 ml of methylene chloride was added. The solution was allowed to stir at room temperature for 2 hours. The solution was washed with 1N sodium hydroxide solution, water, and brine, and then was dried (MgSO4). After filtration, the solvent was removed under reduced pressure to give 4-amino-5-chloro-2-methoxy-N-((5(1-methyl-4-piperidinylidene)-5H-dibenzo[a,d]cyclohepten-3-yl)methyl)benzamide as an amorphous foam.

reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 3.2 mmole, 0.6 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | ethyl chloroformate | 3.7 mmol, 0.347 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-methyl-4-(3-aminomethyl-5H-dibenzo[a,d]cycloheptene-5-ylidene)piperidine | 3.2 mmole, 1.0 g | CN1CCC(CC1)=C1C2=C(C=CC3=C1C=C(C=C3)CN)C=CC=C2 | C22H24N2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-amino-5-chloro-2-methoxy-N-((5(1-methyl-4-piperidinylidene)-5H-dibenzo[a,d]cyclohepten-3-yl)methyl)benzamide | NC1=CC(=C(C(=O)NCC=2C=CC3=C(C(C4=C(C=C3)C=CC=C4)=C4CCN(CC4)C)C2)C=C1Cl)OC | C30H30ClN3O2
